US07704995B2
N-(2-phenylethyl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline was synthesized according to the procedure described above from 3-bromo-N-(2-phenylethyl)aniline and bis(pinacolato)diboron. Yield 72%. 1H NMR (400 MHz, CDCl3): 7.80 (m, 2H), 7.18 (m, 5H), 7.20 (br d, 1H), 6.70 (br t, 1H), 3.40(t, 2H), 2.85 (t, 2H), 1.23 (s, 12H1); MS (EI) for C20H26NO2B: 324 (MH+)

reactant | 3-bromo-N-(2-phenylethyl)aniline | BrC=1C=C(NCCC2=CC=CC=C2)C=CC1 | C14H14BrN
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | N-(2-phenylethyl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | Yield 72% | C1(=CC=CC=C1)CCNC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C20H26BNO2
